vdr_parallel_network - fault test
I1 0 T DC 0.012
R1 T 0 6048.378134
C2 T 0 1.16e-06
R3 T 0 12210.749582
.op
.control
run
print v(T)
print @r1[i] @r3[i]
print @i1[i]
.endc
.end
